US07304057B2
10.9 g of (3R)-thiomorpholine-3-carboxylic acid methyl ester was dissolved in 150 mL of ether and 90 mL 14.5% of hydrogen chloride dissolved in ethanol was added dropwise in the above solution to obtain 13.0 g of (3R)-thiomorpholine-3-carboxylic acid methyl ester hydrochloride as a white solid. Yield 97.2%□mp 160-161° C.

reactant | (3R)-thiomorpholine-3-carboxylic acid methyl ester | 10.9 g | COC(=O)[C@H]1NCCSC1 | C6H11NO2S
reactant | hydrogen chloride | 90 mL | Cl | ClH
solvent | ether | 150 mL | CCOCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
product | (3R)-thiomorpholine-3-carboxylic acid methyl ester hydrochloride | 13.0 g, Yield 97.2% | Cl.COC(=O)[C@H]1NCCSC1 | InChI=1S/C6H11NO2S.ClH/c1-9-6(8)5-4-10-3-2-7-5;/h5,7H,2-4H2,1H3;1H/t5-;/m0./s1
